US05854268
1. (3R)-3-(Benzylthio)methyl-1-(tert-butoxycarbonyl)pyrrolidine
To a stirred mixture of (3R)-1-(tert-butoxycarbonyl)-3-[(methane-sulfonyloxy)methyl]pyrrolidine (0.5071 g, 1.82 mmol) and anhydrous potassium carbonate (0.3764 g, 2.72 mmol) in DMF (13 ml), under argon, was added benzyl mercaptan (0.428 ml, 3.65 mmol) and the mixture was stirred overnight at room temperature, then at 60° C. for 4 h. The mixture was then partitioned between water (50 ml) and diethyl ether (30 ml). The aqueous layer was separated and reextracted with more diethyl ether (2×30 ml). The combined organic layers were dried (MgSO4) and evaporated in uacuo. The residue was purified by flash chromatography (silica gel, 20% EtOAc/pet. ether) to give 0.5186 (93%) of the title compound as a colourless oil. δH (360 MHz, CDCl3) 1.45 (9H, s), 1.56 (1H, m), 1.99 (1H, m), 2.32 (1H, m), 2.45 (2H, t, J=6.4 Hz), 2.97 (1H, m), 3.26 (1H, m), 3.61 (2H, m), 3.72 (2H, s), 7.22-7.40 (5H, m). m/e (ES+) 330 (M+Na)+, 308 (M+H)+, 252 (M-CMe3 +2H)+, 234, 213, 208 (M-Boc+2H)+.

reactant | (3R)-1-(tert-butoxycarbonyl)-3-[(methane-sulfonyloxy)methyl]pyrrolidine | 1.82 mmol, 0.5071 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)COS(=O)(=O)C | C11H21NO5S
reactant | potassium carbonate | 2.72 mmol, 0.3764 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl mercaptan | 3.65 mmol, 0.428 ml | C(C1=CC=CC=C1)S | C7H8S
solvent | DMF | 13 ml | CN(C)C=O | C3H7NO
product | (3R)-3-(Benzylthio)methyl-1-(tert-butoxycarbonyl)pyrrolidine | C(C1=CC=CC=C1)SC[C@H]1CN(CC1)C(=O)OC(C)(C)C | C17H25NO2S
